US07384934B2
(S)-10-[3-(2-Methoxy-ethyl)-4-propyl-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Add sodium triacetoxyborohydride (0.273 g, 1.29 mmol), and then propionaldehyde (0.083 mL, 1.15 mmol) to (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.353 g, 0.858 mmol) in anhydrous dichloroethane (15 mL) and stir at ambient temperature overnight. Add saturated aqueous sodium bicarbonate and extract aqueous phase with dichloromethane. Wash organics with saturated aqueous sodium chloride, and dry (sodium sulfate), filter, and concentrate under reduced pressure to a residue (0.29 g). Purify the residue by flash chromatography, eluting with a gradient of a 3% solution of 2M ammonia in methanol, in dichloromethane, (0-100%) to give the title compound (0.287 g, 74%): mass spectrum (APCI, m/e): 454 (M+1); NMR (1H, 300 MHz, DMSO-d6): δ 8.46 (s, 1H), 6.96-6.82 (m, 3H), 6.71 (m, 1H), 3.46 (br. m, 3H), 3.31-3.17 (m, 3H), 3.15 (s, 3H), 2.73 (m, 1H), 2.58-2.44 (m, 2H), 2.31 (m, 2H), 1.67 (m, 2H), 1.40 (m, 2H), 0.83 (t, 3H, J=7.5 Hz).

reactant | sodium triacetoxyborohydride | 1.29 mmol, 0.273 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | propionaldehyde | 1.15 mmol, 0.083 mL | C(CC)=O | C3H6O
reactant | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.858 mmol, 0.353 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C18H20F3N5OS
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | (S)-10-[3-(2-Methoxy-ethyl)-4-propyl-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.287 g, 74% | COCC[C@H]1CN(CCN1CCC)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C21H26F3N5OS
